US03981932
3-Chloro-4-cyclohexylcinnamic acid (20.0 g.; 0.075 moles) is allowed to reflux with 8-10 pieces of Orierite in absolute ethanol (20 ml) containing concentrated sulfuric acid (5 ml) for 21 hours. The cooled reaction mixture is diluted with chloroform and filtered hot. The filtrate is washed 3 times with water, once with 10% sodium bicarbonate and twice more with water. After drying over sodium sulfate, the solvent is removed to give ethyl 3-chloro-4-cyclohexylcinnamate.

reactant | 3-Chloro-4-cyclohexylcinnamic acid | 0.075 moles, 20.0 g | ClC=1C=C(C=CC(=O)O)C=CC1C1CCCCC1 | C15H17ClO2
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl 3-chloro-4-cyclohexylcinnamate | ClC=1C=C(C=CC(=O)OCC)C=CC1C1CCCCC1 | C17H21ClO2
